US07112680B2
Cyclohexyl-(2-pyridyl)-methanone-(1,3-benzothiazol-2-yl)-hydrazone (1a-27)
A mixture of cyclohexyl-(2-pyridyl)-methanone (0.77 g, 4.05 mmol) and 2-hydrazinobenzothiazole (0.60 g, 4.02 mmol) in 15 ml of methanol is refluxed for 15 hours after the addition of 5 drops of glacial acetic acid. The reaction is monitored by means of thin layer chromatography (Polygram Sil G/UV254 prefabricated foils; eluting agent: petroleum ether:ethyl acetate (3:7)). The reaction mixture is stored over night in the refrigerator at approximately 5° C. The precipitate is filtered and recrystallized from a mixture of ethanol and water. Yield: 1.09 g (80% of theory).

reactant | cyclohexyl-(2-pyridyl)-methanone | 4.05 mmol, 0.77 g | C1(CCCCC1)C(=O)C1=NC=CC=C1 | C12H15NO
reactant | 2-hydrazinobenzothiazole | 4.02 mmol, 0.60 g | N(N)C=1SC2=C(N1)C=CC=C2 | C7H7N3S
solvent | methanol | 15 ml | CO | CH4O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | Cyclohexyl-(2-pyridyl)-methanone-(1,3-benzothiazol-2-yl)-hydrazone | S1C(=NC2=C1C=CC=C2)NN=C(C2=NC=CC=C2)C2CCCCC2 | C19H20N4S
